US07468370B2
8-(5-Fluoro-2-methoxy-phenyl)-[1,7]naphthyridin-6-ylamine—Compound F
To a stirred solution of 8-bromo-[1,7]naphthyridin-6-ylamine (1.70 g) in a mixture of toluene (7 ml), DMF (11 ml) and aqueous K2CO3 (2.31 g in 5 ml water) is added bis(dibenzylideneacetone)palladium (174 mg), triphenylphosphine (158 mg) and 5-fluoro-2-methoxyphenylboronic acid (1.38 g). The mixture is stirred for 3.5 hours at 100° C., then diluted with ethyl acetate and filtered through Celite. The ethyl acetate solution is washed with 2N NaOH and water, dried over magnesium sulphate, then concentrated to afford the title compound. MS: APCI 270.0 MH+.

reactant | 8-bromo-[1,7]naphthyridin-6-ylamine | 1.70 g | BrC=1N=C(C=C2C=CC=NC12)N | C8H6BrN3
reactant | K2CO3 | 5 ml, 2.31 g | C(=O)([O-])[O-].[K+].[K+]
reactant | triphenylphosphine | 158 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 5-fluoro-2-methoxyphenylboronic acid | 1.38 g | FC=1C=CC(=C(C1)B(O)O)OC | C7H8BFO3
solvent | toluene | 7 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(dibenzylideneacetone)palladium | 174 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
solvent | DMF | 11 ml | CN(C)C=O | C3H7NO
product | 8-(5-Fluoro-2-methoxy-phenyl)-[1,7]naphthyridin-6-ylamine | FC=1C=CC(=C(C1)C=1N=C(C=C2C=CC=NC12)N)OC | C15H12FN3O
